US07985764B2
A 460 mg portion of ethyl 1-benzyl-2,3-dimethyl-1H-indole-5-carboxylate was dissolved in 15 ml of trifluoroacetic acid, and 1.19 ml of triethylsilane was added at room temperature, followed by stirring at 50° C. for 3 hours. After evaporation of the solvent, ethyl acetate was added, followed by washing with a 1 M sodium hydroxide aqueous solution and saturated brine and subsequent drying over anhydrous sodium sulfate. After evaporation of the solvent, the residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:30 to 1:20) to obtain 437 mg of ethyl 1-benzyl-2,3-dimethylindoline-5-carboxylate as a pale yellow liquid.

reactant | ethyl 1-benzyl-2,3-dimethyl-1H-indole-5-carboxylate | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)C(=O)OCC)C)C | C20H21NO2
reactant | triethylsilane | 1.19 ml | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 15 ml | FC(C(=O)O)(F)F | C2HF3O2
product | ethyl 1-benzyl-2,3-dimethylindoline-5-carboxylate | 437 mg | C(C1=CC=CC=C1)N1C(C(C2=CC(=CC=C12)C(=O)OCC)C)C | C20H23NO2
